US04739008
1-(t-amylazo)cyclohexanecarbonitrile.
Of these oil-soluble initiators, the most preferable due to commercial availability are 2,2'-azobis(isobutyronitrile), 4,4'-azobis(4-cyanopentanoic acid), 2,2'-azobis-(2,4-dimethylvaleronitrile), t-butyl hydroperoxide, cumene hydroperoxide, benzoyl peroxide amnd lauroyl peroxide.

reactant | 2,2'-azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 4,4'-azobis(4-cyanopentanoic acid) | N(=NC(CCC(=O)O)(C)C#N)C(CCC(=O)O)(C)C#N | C12H16N4O4
reactant | 2,2'-azobis-(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | cumene hydroperoxide | [O-]O.C1(=CC=CC=C1)C(C)C
product | 1-(t-amylazo)cyclohexanecarbonitrile | C(C)(C)(CC)N=NC1(CCCCC1)C#N | C12H21N3
